US06326369B1
8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl N-ethylcarbamate
To a solution of 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol (1.20 g) and ethyl isocyanate (0.517 ml) in THF (12 ml) was added one drop of pyridine. After being stirred for 12 hr at 40° C., the reaction mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to yield the entitled compound (1.42 g) as crystals.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octanol | 1.20 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCO | C21H34O5
reactant | ethyl isocyanate | 0.517 ml | C(C)N=C=O | C3H5NO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | 8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl N-ethylcarbamate | 1.42 g | C(C)NC(OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)=O | C24H39NO6
